US09282744B2
62% Benziothiazolinone.Dithianon Water Dispersible Granule
60% benziothiazolinone, 2% dithianon, 4% sodium alkyl naphthalene sulfonate, 3% sodium dodecyl sulfonate, 3% ammonium sulfate, complemented to 100% with light calcium carbonate.

reactant | dithianon | C1=CC=C2C(=C1)C(=O)C1=C(C2=O)SC(=C(S1)C#N)C#N | C14H4N2O2S2
reactant | sodium dodecyl sulfonate | C(CCCCCCCCCCC)S(=O)(=O)[O-].[Na+]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
product | Dithianon Water | O.C1=CC=C2C(=C1)C(=O)C1=C(C2=O)SC(=C(S1)C#N)C#N | InChI=1S/C14H4N2O2S2.H2O/c15-5-9-10(6-16)20-14-12(18)8-4-2-1-3-7(8)11(17)13(14)19-9;/h1-4H;1H2
